US04097591
To a stirred solution of 26.0 g of NG -nitro-N2 -(tertbutoxycarbonyl)-L-arginyl-N-butylglycine benzyl ester in 50 ml of ethyl acetate was added 80 ml of 10% dry HCl-ethyl acetate at 0° C. After 3 hours, to this solution was added 200 ml of dry ethyl ether to precipitate a viscous oily product. This was filtered and washed with dry ethyl ether to give 20.8 g of NG -nitro-L-arginyl-N-butylglycine benzyl ester hydrochloride as an amorphous solid.

reactant | nitro-N2 -(tertbutoxycarbonyl)-L-arginyl-N-butylglycine benzyl ester | C(C1=CC=CC=C1)OC(CN(CCCC)C([C@@H](N(C(=O)OC(C)(C)C)[N+](=O)[O-])CCCNC(N)=N)=O)=O | C24H38N6O7
reactant | HCl ethyl acetate | 80 ml | Cl.C(C)(=O)OCC
reactant | ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | nitro-L-arginyl-N-butylglycine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(CN(CCCC)C([C@@H](N[N+](=O)[O-])CCCNC(N)=N)=O)=O | InChI=1S/C19H30N6O5.ClH/c1-2-3-12-24(13-17(26)30-14-15-8-5-4-6-9-15)18(27)16(23-25(28)29)10-7-11-22-19(20)21;/h4-6,8-9,16,23H,2-3,7,10-14H2,1H3,(H4,20,21,22);1H/t16-;/m0./s1
